US06872809B2
Inosine (890 mg, 3.0 mmol) was dried under reduced pressure for 1 hour. Thereto was added 1.02 g (21 mmol) of lithium azide, and the mixture was further dried for 1 hour. Distilled DMF (40 ml) was added to the reaction vessel, and the pressure was reduced for about 10 minutes with stirring. Further, 2.20 g (8.4 mmol) of triphenylphosphine was added and, after confirmation of the dissolution of triphenylphosphine, 2.78 g (8.14 mmol) of carbon tetrabromide was added to initiate the reaction. On that occasion, the solution turned yellow. After 8 hours, the completion of the reaction was confirmed by TLC, and the reaction was quenched with methanol. The solution was distilled under reduced pressure, and the residue was purified by silica gel column chromatography (mobile phase MeOH:CHCl3=1:5) to give 5′-azido-5′-deoxyinosine. Isolation yield 775 mg, 88%.

reactant | Inosine | 3.0 mmol, 890 mg | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(O)=NC=NC12 | C10H12N4O5
reactant | lithium azide | 21 mmol, 1.02 g | [N-]=[N+]=[N-].[Li+]
reactant | triphenylphosphine | 8.4 mmol, 2.20 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 8.14 mmol, 2.78 g | C(Br)(Br)(Br)Br | CBr4
product | 5′-azido-5′-deoxyinosine | N(=[N+]=[N-])C[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(O)=NC=NC12)O)O | C10H11N7O4
